US08222243B2
(3-Hydroxy-azetidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone
Prepared from 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 3-hydroxyazetidine hydrochloride by the method described in Example 41. Colorless solid (78 mg, 73%). 1H NMR (DMSO-d6) 2.38 (s, 3H), 3.77-3.90 (m, 1H), 4.19-4.38 (m, 2H), 4.52-4.63 (m, 1H), 4.65-4.78 (m, 1H), 5.88 (d, J=5.9, 1H), 7.62 (d, J=4.0, 1H), 7.73 (d, J=4.0, 1H). 13C NMR 7.4, 58.9, 60.6, 62.5, 116.0 (q, J=2), 118.5 (q, J=271), 130.3, 130.5, 131.0, 140.2, 153.2 (q, J=40), 157.9, 160.8. 19F NMR −62.3. LC/MS 5.42 min, [M+1]+ 333.

reactant | 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | FC(C1=C(C(=NO1)C1=CC=C(S1)C(=O)O)C)(F)F | C10H6F3NO3S
reactant | 3-hydroxyazetidine hydrochloride | Cl.OC1CNC1
product | (3-Hydroxy-azetidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone | OC1CN(C1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | C13H11F3N2O3S
